US07538224B2
2-Aminoethanol (4.0 mL, 66 mmol) was dissolved in N,N-dimethylformamide (50 mL). After the solution was cooled to −10° C., 2-nitrobenzenesulfonyl chloride (12 g, 52 mmol) and pyridine (4.7 mL, 58 mmol) were added dropwise thereto, followed by stirring for 50 minutes, while the temperature was raised to room temperature. To the reaction mixture was added water (0.20 L), and the mixture was extracted with ethyl acetate (0.10 L×6). The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain N-(2-hydroxyethyl)-2-nitrobenzenesulfonamide (10 g, 62%).

reactant | 2-Aminoethanol | 66 mmol, 4.0 mL | NCCO | C2H7NO
reactant | 2-nitrobenzenesulfonyl chloride | 52 mmol, 12 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | pyridine | 58 mmol, 4.7 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 0.20 L | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | N-(2-hydroxyethyl)-2-nitrobenzenesulfonamide | 10 g, 62% | OCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H10N2O5S
